US04550107
5-[[3-[(Diethylamino)methyl]-1-piperidinyl]acetyl]-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one dihydrochloride dihydrate
The title compound is prepared analogously to Example 35 from 5-(chloroacetyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one and 3-[(diethylamino)methyl]piperidine to give colorless crystals, mp. 140° C. (isopropanol/ethyl acetate).

reactant | 5-(chloroacetyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C15H11ClN2O2
reactant | 3-[(diethylamino)methyl]piperidine | C(C)N(CC)CC1CNCCC1 | C10H22N2
solvent | isopropanol ethyl acetate | C(C)(C)O.C(C)(=O)OCC
product | 5-[[3-[(Diethylamino)methyl]-1-piperidinyl]acetyl]-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one dihydrochloride dihydrate | O.O.Cl.Cl.C(C)N(CC)CC1CN(CCC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | InChI=1S/C25H32N4O2.2ClH.2H2O/c1-3-27(4-2)16-19-10-9-15-28(17-19)18-24(30)29-22-13-7-5-11-20(22)25(31)26-21-12-6-8-14-23(21)29;;;;/h5-8,11-14,19H,3-4,9-10,15-18H2,1-2H3,(H,26,31);2*1H;2*1H2
